US07812160B2
A THF (1.5 mL) solution of methyl {4,6-dichloro-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate (0.048 g, 0.10 mmol) at room temperature was treated with 1N NaOH (1 mL). After stirring for 16 hours at room temperature, the reaction mixture was poured into water and washed with EtOAc. The aqueous layer was acidified with 1N HCl and back extracted with EtOAc. The combined organic extracts was washed with brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The remaining residue was chromatographed over silica gel eluting with 10% THF in CH2Cl2 containing 0.5% AcOH to give {4,6-dichloro-2-[4-(2-naphthoyl-amino)benzyl]pyrimidin-5-yl}acetic acid (0.007 g, 15% yield) as a white solid.

reactant | THF | 1.5 mL | C1CCOC1 | C4H8O
reactant | methyl {4,6-dichloro-2-[4-(2-naphthoylamino)benzyl]pyrimidin-5-yl}acetate | 0.10 mmol, 0.048 g | ClC1=NC(=NC(=C1CC(=O)OC)Cl)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C25H19Cl2N3O3
reactant | NaOH | 1N, 1 mL | [OH-].[Na+]
solvent | water | O | H2O
product | {4,6-dichloro-2-[4-(2-naphthoyl-amino)benzyl]pyrimidin-5-yl}acetic acid | 0.007 g, 15% yield | ClC1=NC(=NC(=C1CC(=O)O)Cl)CC1=CC=C(C=C1)NC(=O)C1=CC2=CC=CC=C2C=C1 | C24H17Cl2N3O3
